* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\LTC7001 TEST.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N005 0 10
V2 N009 0 PULSE(0 8 0 10n 10n 1 2)
D1 N005 N006 RF071MM2S
M1 IN N010 N013 N013 IPB039N10N3
L1 N015 OUT 1µ Rser=3m
C1 OUT 0 10µ Rser=7m
R1 OUT 0 10
V3 IN 0 48
C2 N006 N013 0.1µ
D2 0 N015 RF1001NS2D
X§U1 N005 0 0 N009 0 N010 N010 N013 N006 LTC7001
M2 N015 N010 N013 N013 IPB039N10N3
X§U2 N007 N014 0 N011 0 N004 N012 N002 N008 LTC7001
R2 N014 0 67857
C3 N002 N008 500n
M3 N001 N004 N002 N002 IPA180N10N3
M4 N003 N004 N002 N002 IPA180N10N3
D3 N007 N008 RF071MM2S
V4 N011 0 PULSE(0 8 10m 10n 10n 85m 2)
V5 N007 0 5
C5 N003 0 10µ
R5 N003 0 10
V6 N001 0 48
R3 N004 N012 1000
C4 N016 0 47n
R4 N004 N016 10
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100m startup
.lib LTC7001.sub
.backanno
.end
