* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\LTC7001 TEST.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N006 0 10
V2 N010 0 PULSE(0 8 0 10n 10n 1 2)
D1 N006 N007 RF071MM2S
M1 IN N011 N013 N013 IPB039N10N3
L1 N015 OUT 1µ Rser=3m
C1 OUT 0 10µ Rser=7m
R1 OUT 0 10
V3 IN 0 48
C2 N007 N013 0.1µ
D2 0 N015 RF1001NS2D
X§U1 N006 0 0 N010 0 N011 N011 N013 N007 LTC7001
M2 N015 N011 N013 N013 IPB039N10N3
X§U2 N008 N014 0 0 0 N005 N012 N003 N009 LTC7001
R2 N014 0 67857
C3 N003 N009 500n
M3 N002 N005 N003 N003 IPA180N10N3
M4 N004 N005 N003 N003 IPA180N10N3
D3 N008 N009 RF071MM2S
V4 NC_01 NC_02 PULSE(0 8 10m 10n 10n 85m 2)
V5 N008 0 5
C5 N004 0 10µ
R5 N004 0 10
V6 N001 0 16
R3 N005 N012 100000
C4 N016 0 47n
R4 N005 N016 10
R6 N002 N001 0.0001
V7 N004 0 48
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100m startup
.lib LTC7001.sub
.backanno
.end
